US05780482
A mixture of ethyl 4-chloro-7-methyl-1,8-naphthyridine-3-carboxylate (2.49 g) and 4-(2-pyridyloxy)aniline (1.85 g) in IMS (50 ml) was boiled under reflux for 1 hour. The mixture was allowed to stand at ambient temperature overnight and then evaporated under reduced pressure. The residue was triturated with ethyl acetate and filtered to give a solid which was recrystallised from ethanol/ethyl acetate. This solid was dissolved in IMS and hydrogen chloride gas was bubbled through the solution with cooling. The solvent was then evaporated under reduced pressure and the residue was recrystallised from ethanol/ethyl acetate to give ethyl 7-methyl-4-[4-(2-pyridyloxy)anilino]-1,8-naphthyridine-3-carboxylate hydrochloride, m.p. 207°-208° C. Active (2/2) at 30 mg/kg.

reactant | ethyl 4-chloro-7-methyl-1,8-naphthyridine-3-carboxylate | 2.49 g | ClC1=C(C=NC2=NC(=CC=C12)C)C(=O)OCC | C12H11ClN2O2
reactant | 4-(2-pyridyloxy)aniline | 1.85 g | N1=C(C=CC=C1)OC1=CC=C(N)C=C1 | C11H10N2O
product | ethyl 7-methyl-4-[4-(2-pyridyloxy)anilino]-1,8-naphthyridine-3-carboxylate hydrochloride | Cl.CC1=CC=C2C(=C(C=NC2=N1)C(=O)OCC)NC1=CC=C(C=C1)OC1=NC=CC=C1 | InChI=1S/C23H20N4O3.ClH/c1-3-29-23(28)19-14-25-22-18(12-7-15(2)26-22)21(19)27-16-8-10-17(11-9-16)30-20-6-4-5-13-24-20;/h4-14H,3H2,1-2H3,(H,25,26,27);1H
